US07612122B2
Preparation of 2-methyl-1-[4-piperazinophenyl]-2-morpholino propan-1-one
4.2 g of 2-methyl-1-[4-fluorophenyl]-2-morpholinopropan-1-one (0.0167 moles), 5.75 g of piperazine (0.0669 moles), 0.063 g of copper (I) iodide and 15 ml of toluene were mixed in a three necked flask equipped with a stirrer, nitrogen inlet, condenser, nitrogen outlet and a temperature probe. The mixture was heated to reflux for a total of 24 hours under a constant flow of nitrogen gas. The mixture was then cooled to room temperature, after which it was dissolved in 75 ml of dichloromethane. The mixture was then extracted with 100 ml of a saturated aqueous sodium chloride solution and then with 2×100 ml of water. The dichloromethane layer was then dried using anhydrous magnesium sulphate. The magnesium sulphate was removed by filtration and the organic solvent was then removed on a rotary evaporator to yield the product.

reactant | 2-methyl-1-[4-fluorophenyl]-2-morpholinopropan-1-one | 0.0167 moles, 4.2 g | CC(C(=O)C1=CC=C(C=C1)F)(C)N1CCOCC1 | C14H18FNO2
reactant | piperazine | 0.0669 moles, 5.75 g | N1CCNCC1 | C4H10N2
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
catalyst | copper (I) iodide | 0.063 g | [Cu]I
product | 2-methyl-1-[4-piperazinophenyl]-2-morpholino propan-1-one | CC(C(=O)C1=CC=C(C=C1)N1CCNCC1)(C)N1CCOCC1 | C18H27N3O2
